US07816401B2
(2-2) Synthesis of (2E,5E,7S,8S)-3,7-dimethyl-8-[(triethylsilyl)oxy]deca-2,5-dien-1-ol (Q4)
1M toluene solution of diisobutylaluminum hydride (52.2 ml, 52.2 mmol) was added dropwise to an anhydrous diethyl ether (37.5 ml) solution of ethyl-(2E,5E,7S,8S)-3,7-dimethyl-8-[(triethylsilyl)oxy]deca-2,5-dienoate (8.92 g, 25.20 mmol) at −78° C. and the reaction solution was stirred at the same temperature for one hour. Methanol (1 ml) and a saturated potassium sodium tartrate tetrahydrate aqueous solution (9.3 ml) were added to the reaction solution, and the mixture was warmed to room temperature and stirred for two hours. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:diethyl ether 8:1) to obtain the title compound (3.84 g) as a colorless oil. 1H-NMR data of the title compound obtained by (2-2) is completely identical to those of the title compound obtained by (2-1).

reactant | toluene | 1M | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 52.2 mmol, 52.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl-(2E,5E,7S,8S)-3,7-dimethyl-8-[(triethylsilyl)oxy]deca-2,5-dienoate | 25.20 mmol, 8.92 g | C(C)OC(\C=C(\C\C=C\[C@@H]([C@H](CC)O[Si](CC)(CC)CC)C)/C)=O | C20H38O3Si
reactant | potassium sodium tartrate tetrahydrate | 9.3 ml | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Methanol | 1 ml | CO | CH4O
solvent | diethyl ether | 37.5 ml | C(C)OCC | C4H10O
product | (2E,5E,7S,8S)-3,7-dimethyl-8-[(triethylsilyl)oxy]deca-2,5-dien-1-ol | 3.84 g | C\C(=C/CO)\C\C=C\[C@@H]([C@H](CC)O[Si](CC)(CC)CC)C | C18H36O2Si
